US08604039B2
10.1 Synthesis of morpholine-4-carboxylic acid ((S)-1-{2-[4-(4-chloro-phenyl)-piperazin-1-yl]-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-yl}-pyrrolidin-2-ylmethyl)-amide, Example 239 (See Scheme 10)
100 mg C-((S)-1-{2-[4-(4-chloro-phenyl)-piperazin-1-yl]-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-yl }-pyrrolidin-2-yl)-methylamine trifluoroacetate, Diastereomer 2 (Example 226) (see scheme 3, 3.17.2) are placed in 2 ml dichloromethane. While cooling with the ice bath 38 μl triethylamine and 28 μl 4-morpholinecarbonyl chloride are added. The reaction mixture is stirred for 12 hours at ambient temperature and then mixed with water. The organic phase is dried and evaporated to dryness. 121 mg of the product are obtained as a solid. Analytical HPLC-MS (method D): RT=1.18 min.

reactant | C-((S)-1-{2-[4-(4-chloro-phenyl)-piperazin-1-yl]-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-yl }-pyrrolidin-2-yl)-methylamine trifluoroacetate | 100 mg | FC(C(=O)O)(F)F.ClC1=CC=C(C=C1)N1CCN(CC1)C=1N=C(C2=C(N1)CCS2=O)N2[C@@H](CCC2)CN
reactant | triethylamine | 38 μl | C(C)N(CC)CC | C6H15N
reactant | 4-morpholinecarbonyl chloride | 28 μl | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
reactant | water | O | H2O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | morpholine-4-carboxylic acid ((S)-1-{2-[4-(4-chloro-phenyl)-piperazin-1-yl]-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-yl}-pyrrolidin-2-ylmethyl)-amide | 121 mg | ClC1=CC=C(C=C1)N1CCN(CC1)C=1N=C(C2=C(N1)CCS2=O)N2[C@@H](CCC2)CNC(=O)N2CCOCC2 | C26H34ClN7O3S
